US07498440B2
Preparation of 1-butyl-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0496 g, 0.169 mmol) and 1-bromobutane (0.030 mL, 0.279 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0509 g, 70.7%). EI-MS m/z 350(M+) Rt (1.83 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.169 mmol, 0.0496 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-bromobutane | 0.279 mmol, 0.030 mL | BrCCCC | C4H9Br
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-butyl-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0509 g, 70.7% | [Br-].C(CCC)[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C24H32NO.BrH/c1-2-3-17-25-18-14-23(15-19-25,16-20-25)24(26,21-10-6-4-7-11-21)22-12-8-5-9-13-22;/h4-13,26H,2-3,14-20H2,1H3;1H/q+1;/p-1
